US08034256B2
Under an argon gas atmosphere, a mixture of 121.0 g (427.3 mmol) of 1-bromo-4-phenylnaphthalene, 1.2L of dehydrated THF and 1.2L of dehydrated diethylether was cooled down to −20 degrees C., and added with 360 ml (562 mmol) of hexane solution of 1.56M n-butyllithium in drops while being stirred. Then, the reaction mixture was stirred for one hour at −20 degree C. The reaction mixture was further cooled down to −60 degrees C., and added with 241.1 g (1.28 mol) of triisopropyl borate in drops. The reaction mixture was subsequently warmed up to room temperature, and stirred for 16 hours at room temperature. The reaction mixture was further added with solution of hydrochloric acid to be stirred for one hour at room temperature. After the reaction, the reaction mixture was further added with toluene, so that aqueous phase thereof was eliminated. After organic phase thereof was cleansed with water and dried with magnesium sulfate, the solvent was distilled away under reduced pressure. By recrystallizing the obtained solid by hexane, 61.0 g of 4-phenylnaphthalene-1-boronic acid was obtained at an yield of 58%.

reactant | 1-bromo-4-phenylnaphthalene | 427.3 mmol, 121.0 g | BrC1=CC=C(C2=CC=CC=C12)C1=CC=CC=C1 | C16H11Br
reactant | hexane | 562 mmol, 360 ml | CCCCCC | C6H14
reactant | n-butyllithium | 1.56M | C(CCC)[Li]
reactant | triisopropyl borate | 1.28 mol, 241.1 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | diethylether | 1.2L | C(C)OCC | C4H10O
solvent | THF | 1.2L | C1CCOC1 | C4H8O
product | 4-phenylnaphthalene-1-boronic acid | 61.0 g, yield of 58% | C1(=CC=CC=C1)C1=CC=C(C2=CC=CC=C12)B(O)O | C16H13BO2
